US08183380B2
1-[1-(2-Hydroxy-ethyl)-piperidin-4-yl]-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea (0.05 g, 0.12 mmol), triethylamine (0.02 mL, 0.15 mmol) and 2-bromoethanol (0.019 mL, 0.15 mmol) were dissolved in tetrahydrofuran (3 mL) and stirred at 60° C. for 7 h. The reaction mixture was evaporated. The residue was subjected to column chromatography (basic silica gel, methylene chloride/methanol 19:1, 9:1) to yield the title compound (0.023 g, 41%) as a white solid; MS: m/e=446.8 (M+H+).

reactant | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea | 0.12 mmol, 0.05 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCNCC1 | C24H27N5O
reactant | triethylamine | 0.15 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethanol | 0.15 mmol, 0.019 mL | BrCCO | C2H5BrO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-[1-(2-Hydroxy-ethyl)-piperidin-4-yl]-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea | 0.023 g, 41% | OCCN1CCC(CC1)NC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C26H31N5O2
